US09169242B2
Step 2: 2-(3-Bromo-4-methylphenyl)-4,4-dimethyl-4,5-dihydrooxazole:
3-bromo-N-(1-hydroxy-2-methylpropan-2-yl)-4-methylbenzamide (1.7 g, 6.04 mmol, 1.0 eq) was treated with thionyl chloride (0.9 mL, 12.08 mmol, 2.0 eq) and the neat reaction mixture was stirred at room temperature for 12 h. The mixture is diluted with diethyl ether (50 mL) and the precipitated solid was filtered and washed with diethyl ether (20 mL). The solid collected was dissolved in sodium hydroxide solution (1N, 15 mL) and extracted with diethyl ether (2×20 mL). The combined organic layers were washed with brine (20 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum to afford the 1.0 g of the desired title product as a white solid. 1HNMR (400 MHz, CDCl3) δ 8.12 (d, J=1.0 Hz, 1H), 7.75 (dd, J=1.0, 8.0 Hz, 1H), 7.25 (d, J=8.0 Hz, 1H), 4.09 (s, 2H), 2.42 (s, 3H), 1.37 (s, 6H); ESI-MS (m/z) 268, 270 [(MH)+, Br79,81].

reactant | 3-bromo-N-(1-hydroxy-2-methylpropan-2-yl)-4-methylbenzamide | 6.04 mmol, 1.7 g, 1.0 eq | BrC=1C=C(C(=O)NC(CO)(C)C)C=CC1C | C12H16BrNO2
reactant | thionyl chloride | 12.08 mmol, 0.9 mL, 2.0 eq | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-(3-Bromo-4-methylphenyl)-4,4-dimethyl-4,5-dihydrooxazole | 1.0 g | BrC=1C=C(C=CC1C)C=1OCC(N1)(C)C | C12H14BrNO
